US05760032
3-(4-(2-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)propionic acid (13.5 g) was dissolved in dimethylformamide (140 ml). Potassium carbonate (9.1 g) and iodoethane (2.9 ml) were added, and the mixture was stirred for 4 hours. Ethyl acetate and water were added thereto. The organic layer was taken out, washed with brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was crystallized from diisopropyl ether to give 11.2 g of ethyl 3-(4-(2-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)propionate.

reactant | 3-(4-(2-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)propionic acid | 13.5 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CCC(=O)O | C20H19ClN4O2S
reactant | Potassium carbonate | 9.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 2.9 ml | ICC | C2H5I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-(4-(2-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)propionate | 11.2 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CCC(=O)OCC | C22H23ClN4O2S
